US05081123
d. 6-Acetyl-7,8,9,10-tetrahydro-4-hydroxybenzo[f]quinoxaline-2,3(1H,4H)-dione
A solution of 8-acetyl-5-ethoxalylamino-1,2,3,4-tetrahydro-6-nitronaphthalene (0.67 g, 2 mmol) in 100 ml of ethanol was hydrogenated at room temperature and atmospheric pressure over 50 mg of 5% platinum on carbon for 1 h. Then 50 ml of N,N-dimethylformamide was added to dissolve the precipitated solid, and the catalyst was removed by filtration. The filtrate was concentrated and the residue was washed with 50 ml of ethanol to give 0.40 g (73%) of the title compound. M.p. >200° C. decomp. (DSC); IR (KBr): 1709, 1677 cm-1, 1H-NMR (DMSO-d6): 1.43-1.93 (m, 4H, 2CH2), 2.57 (s, 3H, COCH3), 2.53-3.07 (m, 4H, 2CH2), 7.57 (s, 1H, H-7), 11.4 (very broad s, 2H, OH and NH); MS (m/e: 274 (M+, 100%).

reactant | 8-acetyl-5-ethoxalylamino-1,2,3,4-tetrahydro-6-nitronaphthalene | 2 mmol, 0.67 g | C(C)(=O)C=1C=C(C(=C2CCCCC12)NC(=O)C(=O)OCC)[N+](=O)[O-] | C16H18N2O6
reactant | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | platinum on carbon | 50 mg | [Pt] | Pt
product | 6-Acetyl-7,8,9,10-tetrahydro-4-hydroxybenzo[f]quinoxaline-2,3(1H,4H)-dione | 0.40 g, 73% | C(C)(=O)C=1C2=C(C=3NC(C(N(C3C1)O)=O)=O)CCCC2 | C14H14N2O4
